US08003800B2
To a solution of 3,5-dimethyl-4-(2-methyl-allyl)-thiophene-2-carboxylic acid ethyl ester (978 mg, 4.1 mmol) in ethanol (20 mL) is added 3M aq. LiOH (10 mL) and the mixture is stirred at 60° C. for 1 h. The mixture is partitioned between DCM (100 mL) and 1M aq. HCl (75 mL). The aq. phase is re-extracted with DCM (2×50 mL). The combined organic extracts are dried (MgSO4), filtered and evaporated to give 653 mg of 3,5-dimethyl-4-(2-methyl-allyl)-thiophene-2-carboxylic acid as a light yellow powder; LC-MS: tR=0.94 min, [M+1+CH3CN]+=252.04; 1H NMR (CDCl3): δ 11.50 (br. s, 1H), 4.75 (s, 1H), 4.39 (s, 1H), 3.17 (s, 2H), 2.42 (s, 3H), 2.37 (s, 3H), 1.75 (s, 3H).

reactant | 3,5-dimethyl-4-(2-methyl-allyl)-thiophene-2-carboxylic acid ethyl ester | 4.1 mmol, 978 mg | C(C)OC(=O)C=1SC(=C(C1C)CC(=C)C)C | C13H18O2S
reactant | LiOH | 3M, 10 mL | [Li+].[OH-]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3,5-dimethyl-4-(2-methyl-allyl)-thiophene-2-carboxylic acid | 653 mg | CC1=C(SC(=C1CC(=C)C)C)C(=O)O | C11H14O2S
